US08871753B2
Step G: 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2,5-dichloropyrimidin-4-yl)benzene-1,4-diamine trihydrochloride
A solution of 4.0 M of hydrogen chloride in 1,4-dioxane (30 mL, 120 mmol), tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (860 mg, 1.49 mmol) and methanol (15 mL) was stirred at 25° C. for 1 hour. The solvent was removed in vacuo. The crude residue was dissolved in DCM and triturated with ether to give the desired product (0.57 g, 73%). LCMS calculated for C17H17Cl2N6(M+H)+: m/z=375.0, 377.0.

reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 120 mmol, 30 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 1.49 mmol, 860 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1Cl)Cl)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C27H32Cl2N6O4
solvent | methanol | 15 mL | CO | CH4O
product | 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2,5-dichloropyrimidin-4-yl)benzene-1,4-diamine trihydrochloride | 0.57 g, 73% | Cl.Cl.Cl.NC=1C=C(C=NC1)CCC1=C(C=CC(=C1)NC1=NC(=NC=C1Cl)Cl)N | InChI=1S/C17H16Cl2N6.3ClH/c18-14-9-23-17(19)25-16(14)24-13-3-4-15(21)11(6-13)2-1-10-5-12(20)8-22-7-10;;;/h3-9H,1-2,20-21H2,(H,23,24,25);3*1H
